US04560771
A mixture of 3.3 g of 2,2-dioxo-3-methyl-1,2-benzoxathiin-8-yl sulfonamide, 1.90 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene, 3.28 g of N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)phenylcarbamate in a mixture of 25 ml of dioxan and 10 ml of acetonitrile is stirred at 20° C. to 25° C. for 1 hour. The solvents are evaporated and the residue is triturated with a mixture of 7 ml of 2N hydrochloric acid and 10 ml of water and then with 20 ml of ether. The precipitate is isolated by filtration and dried, affording 5.14 g of N-(2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea of m.p. 203°-205° C.

reactant | 2,2-dioxo-3-methyl-1,2-benzoxathiin-8-yl sulfonamide | 3.3 g | O=S1(OC2=C(C=C1C)C=CC=C2S(=O)(=O)N)=O | C9H9NO5S2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.90 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)phenylcarbamate | 3.28 g | COC1=NC(=NC(=N1)C)N(C([O-])=O)C1=CC=CC=C1
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-(2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | 5.14 g | O=S1(OC2=C(C=C1C)C=CC=C2S(=O)(=O)NC(=O)NC2=NC(=NC(=N2)OC)C)=O | C15H15N5O7S2
